US07507740B2
(i) Production of 4-chloro-5-(2-ethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidine
To a suspension of 4-chloro-5H-pyrrolo[3,2-d]pyrimidine (500 mg) in N,N-dimethylformamide (4.5 mL) was added cesium carbonate (1324 mg) under ice-cooling, and the mixture was stirred while warming to room temperature for 15 min. 1-Bromo-2-ethoxyethane (1016 mg) was added to the reaction mixture, and the mixture was stirred at room temperature for 14 hrs. The reaction mixture was diluted with water (100 mL) and extracted with ethyl acetate (120 mL×3). The organic layer was washed with saturated brine (100 mL×3) and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (silica gel, eluent:hexane/ethyl acetate=85/15→20/80). The object fraction was concentrated under reduced pressure and dried to give the title compound (697 mg) as a pale-yellow oil.

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 500 mg | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | cesium carbonate | 1324 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-Bromo-2-ethoxyethane | 1016 mg | BrCCOCC | C4H9BrO
solvent | N,N-dimethylformamide | 4.5 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | 4-chloro-5-(2-ethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidine | 697 mg | ClC=1C2=C(N=CN1)C=CN2CCOCC | C10H12ClN3O
